US08202858B2
Cyclohexyl-(2-nitro-phenyl)-amine
A mixture of 2-fluoronitrobenzene (5.0 g, 35.4 mmol), cyclohexylamine (4.5 ml, 39.0 mmol) and potassium carbon-ate (17.1 g, 124 mmol) in acetonitrile (100 ml) was heated at reflux for 2 days. The mixture was diluted with EtOAC, washed with water then brine, dried and partially concentrated in vacuo. The solid which precipitated was collected and washed with hexane to yield the title compound (6.7 g, 86%).

reactant | 2-fluoronitrobenzene | 35.4 mmol, 5.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cyclohexylamine | 39.0 mmol, 4.5 ml | C1(CCCCC1)N | C6H13N
reactant | potassium carbon-ate | 124 mmol, 17.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Cyclohexyl-(2-nitro-phenyl)-amine | 6.7 g, 86% | C1(CCCCC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O2
